US08211904B2
Step 2: methyl 3-(vinyloxy)benzoate
To a 0° C. solution of methyl 3-(2-chloroethoxy)benzoate (5.61 g, 26.1 mmol) in THF (50 mL) was added potassium tert-butoxide (3.67 g, 32.7 mmol). When the addition was complete the reaction was allowed to warm to rt. After stirring at rt overnight the reaction was quenched with water. The solution was extracted with diethyl ether (three times), dried over MgSO4, and concentrated under vacuum. Purification by silica gel chromatography afforded the desired product.

reactant | methyl 3-(2-chloroethoxy)benzoate | 26.1 mmol, 5.61 g | ClCCOC=1C=C(C(=O)OC)C=CC1 | C10H11ClO3
reactant | potassium tert-butoxide | 32.7 mmol, 3.67 g | CC(C)([O-])C.[K+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | methyl 3-(vinyloxy)benzoate | C(=C)OC=1C=C(C(=O)OC)C=CC1 | C10H10O3
